US09056859B2
Compound 2-fluoro-4-methoxybenzonitrile (2.97 g, 19.0 mmol) in CHCl3 (30 mL) was added Br2 (2 mL), and the mixture was stirred at ambient temperature for 4 days. The mixture was diluted by DCM and washed with saturated NaHCO3, water, brine, dried over anhydrous sodium sulfate and concentrated. The residue was purified with fast column chromatograph to give 5-bromo-2-fluoro-4-methoxybenzonitrile. 1H-NMR (300 MHz, CDCl3) δ ppm 7.76 (d, J=7.2 Hz, 1H), 6.73 (d, J=10.5 Hz, 1H), 3.96 (s, 3H).

reactant | 2-fluoro-4-methoxybenzonitrile | 19.0 mmol, 2.97 g | FC1=C(C#N)C=CC(=C1)OC | C8H6FNO
reactant | Br2 | 2 mL | BrBr | Br2
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | CHCl3 | 30 mL | C(Cl)(Cl)Cl | CHCl3
product | 5-bromo-2-fluoro-4-methoxybenzonitrile | BrC=1C(=CC(=C(C#N)C1)F)OC | C8H5BrFNO
